US04215044
A mixture of 30.0 g (0.25 mol) of phenylacetaldehyde, 32.6 g (0.3 mol) of trimethylchlorosilane, 60.6 g (0.6 mol) of triethylamine, and 100 ml of N,N-dimethylformamide was refluxed overnight, cooled and diluted with 200 ml of pentane. The mixture was washed successively with cold 5% aqueous sodium bicarbonate, 1.5 N hydrochloric acid, and 5% aqueous sodium bicarbonate, dried (over MgSO4), and then distilled to give 21.15 g of α-trimethylsiloxystyrene as a colorless liquid: bp 80°-83.5° C. (3.8 mm); 1H NMR (CDCl3) δ 0.07 ppm (s, 9H), 5.87 ppm (d,J=12 Hz, 1H), 6.80 ppm (d,J=12 Hz, 1H) and 7.03 ppm (m, 5H).

reactant | phenylacetaldehyde | 0.25 mol, 30.0 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | trimethylchlorosilane | 0.3 mol, 32.6 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | 0.6 mol, 60.6 g | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | pentane | 200 ml | CCCCC | C5H12
product | α-trimethylsiloxystyrene | 21.15 g | C[Si](OC(=C)C1=CC=CC=C1)(C)C | C11H16OSi
